### PR TITLE
feat: Partial Equivalence of SHA-1 and AES

### PR DESCRIPTION
**Pull request by winstonhzhang03**

### CODE REVIEW

File: .gitignore [hunk 1]
```diff
@@ -1 +1,2 @@
 *.swp
+lean/aeneas/
```
Comment (tenedor) [inline .gitignore]: @winstonhzhang03 If I understand correctly, you created a submodule and are now gitignoring it. How come? How does git treat a submodule that is gitignored?

Git submodules are notoriously messy so I'm in favor of avoiding them, but I get that the aeneas design means we need to do some kind of hack regardless. I appreciate you just getting this working and moving on. That said, I wasn't able to get VSCode to reason about the aeneas dependency on my local machine after 10 minutes of trying, so, ugh. Let's find time to pair on getting this to work on my machine.

@JasonGross can you check if VSCode works out of the box for you on this branch, possibly after a `git submodule update` or something similar? If not, we should make sure we solve this for you as well.

File: lean/VerifiedFipsCryptography/Equivalence/Lemmas.lean [hunk 2]
```diff
@@ -0,0 +1,517 @@
...
+  simp [Usize.max, Usize.refined_max, Usize.smax, USize.size, System.Platform.numBits, System.Platform.getNumBits, *] <;>
+  omega
+
+@[simp]
+lemma U8.ofUInt8_eq_aux (x : ℕ) [OfNat ℤ x] (h : Scalar.cMin ScalarTy.U8 ≤ (OfNat.ofNat x) ∧ (OfNat.ofNat x) ≤ Scalar.cMax ScalarTy.U8 := by decide) :
+    U8.ofInt (OfNat.ofNat x) h = (@OfNat.ofNat UInt8 x).toU8 :=
+by
+
+  simp [U8.ofInt, Scalar.ofInt, Scalar.ofIntCore, UInt8.toU8, UInt8.toNat]
+  sorry
```
Comment (tenedor) [inline lean/VerifiedFipsCryptography/Equivalence/Lemmas.lean]: Can you add a comment explaining this sorry? I think this is the only one missing a comment.

File: rust/.gitignore [hunk 3]
```diff
@@ -1 +1,2 @@
 /target
+/lean/aeneas
```
Comment (tenedor) [inline rust/.gitignore:2]: I think this addition should be deleted?

File: lean/VerifiedFipsCryptography/ForMathlib.lean
Comment (tenedor) [inline lean/VerifiedFipsCryptography/ForMathlib.lean:1]: Empty file?

File: README.md [hunk 4]
```diff
@@ -13,4 +13,27 @@ Currently, this repository contains the following pieces:
 - AES
 
 [Verified implementations](./lean/VerifiedFipsCryptography/Equivalence):
-- (None)
+- SHA-1: See `./lean/VerifiedFipsCryptography/Equivalence/SHA1`.
+- AES: See `./lean/VerifiedFipsCryptography/Equivalence/AES`.
+
+## Summary of Work Done
```
Comment (tenedor) [inline README.md:19]: Nice writeup!

File: README.md [hunk 5]
```diff
@@ -13,4 +13,27 @@ Currently, this repository contains the following pieces:
...
+
+- Concretely showed that an equivalence between Aeneas generated Rust code and Lean specifications for SHA1 and AES can be verified, up to small bounds proofs.
```
Comment (tenedor) [inline README.md]: Can you add a sentence here listing the different categories of sorrys, and noting that every sorry is documented inline explaining why it's insignificant? It looked like about 5 categories to me: bounds proofs, arithmetic hammer needed, aeneas doesn't yet implement, similar proof completed elsewhere, and a small number of miscellaneous "obviously true but painful to prove" cases.

File: rust/.gitignore (hunk 3 above)
Comment (JasonGross) [reply rust/.gitignore:2]: Agreed
```suggestion
```

File: .gitignore (hunk 1 above)
Comment (JasonGross) [reply .gitignore]: I don't find git submodules to be too terrible.  The current state does not work out of the box because it's missing `.gitmodules`, I'll push a fix that properly adds the submodule, though it'd also be fine to fully remove.  After fixing the submodule issue, it does build out of the box.

File: README.md (hunk 5 above)
Comment (JasonGross) [reply README.md]: +1, having this seems good

File: README.md [hunk 6]
```diff
@@ -13,4 +13,27 @@ Currently, this repository contains the following pieces:
...
+- Developed a template for approaching equivalence proofs, by splitting the equivalence into 3 simpler stages that each target one particular complexity.
+
+To explain in more detail the structure of the proofs, we split into 3 stages (`TypeEquiv`, `SemanticEquiv`, `StructuralEquiv`), and use 2 intermediary representations (`Translated`, `Structured`). 
+- `Translated`: This is the representation which has the same structure as the Aeneas generated code, but we replace the Aeneas types with Lean types.
+- `TypeEquiv`: In this stage, we prove an equivalence that the Aeneas generated code is equivalent to the `Translated` implementations. This stage removes the complexity of the Aeneas types, and allows us to use Lean types, which have better compiler and standard library support.
+- `Structured`: This is the representation which is also identical to the Lean specification, but is slightly more structured to closer reflect the Aeneas structure. Aeneas generated code has a very rigid structure (e.g. every for loop will be factored out into a `*_loop` function).
```
Comment (JasonGross) [inline README.md]:
```suggestion
- `Structured`: This representation is a refactored version of the Lean specification, and is slightly more structured so as to closer reflect the Aeneas structure. Aeneas generated code has a very rigid structure (e.g. every for loop will be factored out into a `*_loop` function).
```

**Comment by JasonGross** [comment]
@winstonhzhang03 I'm about to review this.  Is this the most updated version, or do you have additional changes sitting on your computer?  (I notice that, e.g., none of @tenedor 's comments have been responded to.)

File: README.md [hunk 7]
```diff
@@ -13,4 +13,27 @@ Currently, this repository contains the following pieces:
...
+- Automation: By splitting up the equivalence proofs and reducing complexity, we naturally expose many opportunities for automation for each stage of equivalence. Further tools that specialize in, say, automatically proving the type-equivalence stage could be interesting to streamline the proving process for a user. (And even necessary if the scale of equivalence proofs become large.)
+- Aeneas: Aeneas itself is not fully mature as a tool, and many workarounds are required to make things work. The Aeneas team seems to be rapidly developing its Lean backend support, and has thusfar been very open to help/collaboration, so we expect many of these early issues to disappear in the near future. 
+- Bounds-checking: Aeneas faithfully models Rust integer types, like `u32`, whereas Lean often uses `Nat`. Thus, a significant amount of effort has to be taken to show that the Rust model will not "overflow," e.g. when adding two `u32`s or pushing to a vector. Most of these bounds are clearly trivial, and so we've justified leaving some as `sorry`s for now. However, they are a clear source of bugs, where, if not modeled correctly, we may find subtle missed assumptions.
```
Comment (JasonGross) [inline README.md]: @winstonhzhang03 Please add another bullet with the example that we found live, where both specs were incorrect on the same line in different ways.

File: lean/VerifiedFipsCryptography/Equivalence/SHA1/TypeEquiv.lean [hunk 8]
```diff
@@ -0,0 +1,484 @@
...
+      rw [sha1.chunkify_loop]
+      have hi : i * 64 < msg.size := by linarith
+      simp [hi, this i (by omega)] at ih ⊢
+      -- This is a simple bounds `sorry`.
+      simp [slice.index.Slice.index, Usize.add_spec sorry]
+      unfold Translated.chunkify_loop_aux; simp [hi]
+      -- This `sorry` is hard to fill because many Aeneas types like
+      -- `slice.index.SliceIndexRangeUsizeSliceTInst` and `slice.Slice.copy_from_slice` don't have definitions yet.
+      -- But the statement is essentially true.
+      sorry
```
Comment (JasonGross) [inline lean/VerifiedFipsCryptography/Equivalence/SHA1/TypeEquiv.lean:320]: Is it possible to factor this sorry out into (a) separate lemma(s)?

File: lean/VerifiedFipsCryptography/Specs/SHA1.lean [hunk 9]
```diff
@@ -29,13 +29,28 @@ def ROTL (n : Nat) (x : Word) : Word :=
...
-  let zeroPaddingLength := (56 - ((msg.size + 1) % 64)) % 64
+def pad_message (msg : ByteArray) : ByteArray :=
+  -- Step 1: Compute message length in bits
+  let ml := (msg.size.toUInt64 * 8) -- Message length in bits
+  -- Step 2: Append the padding bit (0x80)
+  let padding : ByteArray := ByteArray.mk #[0x80]
+  -- Step 3: Calculate zero-padding length
+  let len := msg.size + 1
+  -- TODO: highlight this fix
+  let zeroPaddingLength := (64 - len % 64 + 56) % 64
```
Comment (JasonGross) [inline lean/VerifiedFipsCryptography/Specs/SHA1.lean]: Please do highlight this

**Review by JasonGross — APPROVED** [review]
I've skimmed this for about 1.5 hours and am basically satisfied.  There are 147 `sorry`s that remain, and while I wouldn't be confident that we've taken care of all the hard parts if I didn't trust @winstonhzhang03 (I estimate getting confidence on that level would take about 5--10 minutes of review per sorry on average), I think we're basically fine, and I'm moderately confidence we've uncovered all of the types of work we'd need to do to finish the proof.

@tenedor Please let me know if you have any remaining questions / requests.

File: lean/VerifiedFipsCryptography/Equivalence/SHA1/TypeEquiv.lean (hunk 8 above)
Comment (winstonhzhang03) [reply lean/VerifiedFipsCryptography/Equivalence/SHA1/TypeEquiv.lean:320]: I've just tried for 10 minutes, but it's difficult, since all the Aeneas terms are inlined into each other, but they all have no implementations. I could pull it out, but a) it would be more or less the complete statement that's already being sorried and b) it would be very messy due to the large term sizes. I think it's hard to further break it down into any simpler pieces.

**Comment by winstonhzhang03** [comment]
I've pushed fixes to address the comments, let me know how it looks.

File: lean/VerifiedFipsCryptography/Equivalence/Lemmas.lean (hunk 2 above)
Comment (winstonhzhang03) [reply lean/VerifiedFipsCryptography/Equivalence/Lemmas.lean]: Oops, this is unused, I've just deleted it.
